US07049313B2
2-(10,11-Dihydro-dibenzo[b,f]thiepin-4-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane
Trifluoro-methanesulfonic acid 10,11-dihydro-dibenzo[b,f]thiepin-4-yl ester (1.08 g, 3 mmol), bis(pinacolato)diboron (914 mg, 3.6 mmol) and potassium acetate (883 mg, 9 mmol) were dissolved in 1,4-dioxane (10 mL) and the mixture was degassed for 5 minutes. Pd(dppf)Cl2 (121 mg, 0.15 mmol) and dppf (83 mg, 0.15 mmol) were added to the vessel, and the reagents heated to 100° C. under nitrogen with stirring for 12-hours. The reaction mixture was purified by flash chromatography (dichloromethane) and the black residue was used without further purification (0.87 g).

reactant | Trifluoro-methanesulfonic acid 10,11-dihydro-dibenzo[b,f]thiepin-4-yl ester | 3 mmol, 1.08 g | C1=CC=C(C=2SC3=C(CCC21)C=CC=C3)OS(=O)(=O)C(F)(F)F | C15H11F3O3S2
reactant | bis(pinacolato)diboron | 3.6 mmol, 914 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 9 mmol, 883 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.15 mmol, 121 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | dppf | 0.15 mmol, 83 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 2-(10,11-Dihydro-dibenzo[b,f]thiepin-4-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | C1=CC=C(C=2SC3=C(CCC21)C=CC=C3)B3OC(C(O3)(C)C)(C)C | C20H23BO2S
